US04571345
O-Benzyl-D-serine (5.0 g, 25.6 mmole) was dissolved in dimethylformamide (50 ml), treated with chlorotrimethylsilane (3.053 g, 28.1 mmole) and the mixture stirred at room temperature until a homogeneous solution was obtained (approx. 1 hour). Meanwhile, N-benzyloxycarbonyl-β-benzyl-L-aspartic acid (9.14 g, 25.6 mmole) was dissolved in a 1:1 mixture of dimethylformamide and tetrahydrofuran, cooled to -15° C. and treated with N-methylmorpholine (2.81 ml, 25.6 mmole), followed by isobutyl chloroformate (3.32 ml, 25.6 mmole). After 10 minutes' activation, the precooled solution of O-benzyl-D-serine silyl ester was added, followed by dropwise addition of N-methylmorpholine (2.81 ml, 25.6 mmole), ensuring that the temperature of the reaction mixture was maintained at -15° C. The solution was allowed to warm to room temperature slowly and stirred for 4 hours before acidifying to pH 1-2 (with cooling) using aqueous hydrochloric acid. Chloroform was added, the phases separated and the aqueous layer re-extracted with chloroform. The combined organic extracts were washed with 1N hydrochloric acid (3×) and with saturated sodium chloride and dried (MgSO4) The solvent was evaporated under reduced pressure and the solid residue crystallized from ethyl acetate/hexanes to give Nα -benzyloxycarbonyl-β-benzyl-L-aspartyl-O-benzyl-D-serine (11.0 g), m.p. 107°-108° C., which was homogeneous by TLC. The nmr spectrum of the product was consistent with the assigned structure.

reactant | O-Benzyl-D-serine | 25.6 mmole, 5.0 g | C(C1=CC=CC=C1)OC[C@@H](N)C(=O)O | C10H13NO3
reactant | chlorotrimethylsilane | 28.1 mmole, 3.053 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | N-benzyloxycarbonyl-β-benzyl-L-aspartic acid | 25.6 mmole, 9.14 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C(=O)O)CC1=CC=CC=C1)C(=O)O | C19H19NO6
reactant | N-methylmorpholine | 25.6 mmole, 2.81 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 25.6 mmole, 3.32 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | O-benzyl-D-serine silyl ester | [SiH3]OC([C@H](N)COCC1=CC=CC=C1)=O | C10H15NO3Si
reactant | N-methylmorpholine | 25.6 mmole, 2.81 ml | CN1CCOCC1 | C5H11NO
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | Nα -benzyloxycarbonyl-β-benzyl-L-aspartyl-O-benzyl-D-serine | 11.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C(O)=O)CC1=CC=CC=C1)C(=O)N[C@H](COCC1=CC=CC=C1)C(=O)O | C29H30N2O8
